US04721794
5-(2,3-Dihydroxypropylthio)thiophene-2-sulfonamide
A solution of 2,3-dihydroxypropanethiol (8.11 g, 0.075 mol) in DMF (10 ml) was added dropwise to a stirred mixture of NaH (3.45 g, 50% oil, 0.075 mol) and DMF (40 ml) under nitrogen. When gas evolution was complete, a solution of N,N-dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine (14.85 g, 0.05 mol) in DMF (50 ml) was added rapidly and the resulting mixture was heated on the steam bath for one hour. After an additional 16 hours at ambient temperature, the reaction mixture was diluted with water (500 ml) and extracted with ethyl acetate (250 ml). Sodium hydroxide (100 g) was added to the aqueous layer and this solution warmed on the steam bath for two hours. After cooling to ambient temperature, the mixture was filtered and the clear filtrate was acidified with concentrated HCl. The solution was extracted with ethyl acetate (3×300 ml), the extracts were washed with saturated NaCl and dried (Na2SO4) Filtration and evaporation of the solvent left the product as a light amber oil, 13.3 g.

reactant | 2,3-dihydroxypropanethiol | 0.075 mol, 8.11 g | OC(CS)CO | C3H8O2S
reactant | NaH | 0.075 mol, 3.45 g | [H-].[Na+]
reactant | N,N-dimethyl-N'-(5-bromothiophene-2-sulfonyl)formamidine | 0.05 mol, 14.85 g | CN(C=NS(=O)(=O)C=1SC(=CC1)Br)C | C7H9BrN2O2S2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 500 ml | O | H2O
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-(2,3-Dihydroxypropylthio)thiophene-2-sulfonamide | OC(CSC1=CC=C(S1)S(=O)(=O)N)CO | C7H11NO4S3
